US07923573B2
An isopropylmagnesium bromide-0.63M tetrahydrofuran solution (3.2 ml, 2.0 mmol) was added dropwise to a solution of zinc bromide (473 mg, 2.1 mmol) in tetrahydrofuran (2 ml) under ice-cooling. After the mixture was stirred for 15 minutes, the reaction mixture was cooled to −78° C. After 3-bromo-4-methoxybenzyl cyanide (226 mg, 1.0 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II)-dichloromethane adduct (32 mg, 0.04 mmol) were added to the mixture at −78° C., the temperature of the reaction mixture was raised to room temperature and the mixture was further stirred for 5 hours. 1N Hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was subjected to silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=8/1-6/1) to give crude (3-isopropyl-4-methoxyphenyl)acetonitrile (158 mg).

reactant | isopropylmagnesium bromide | 2.0 mmol, 0.63M, 3.2 ml | C(C)(C)[Mg]Br
reactant | 3-bromo-4-methoxybenzyl cyanide | 1.0 mmol, 226 mg | BrC=1C=C(CC#N)C=CC1OC | C9H8BrNO
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | zinc bromide | 2.1 mmol, 473 mg | [Br-].[Zn+2].[Br-]
product | (3-isopropyl-4-methoxyphenyl)acetonitrile | 158 mg | C(C)(C)C=1C=C(C=CC1OC)CC#N | C12H15NO
